US09428469B2
N3-(3,5-dichlorophenyl)-N5-((5-methylfuran-2-yl)methyl)-1H-1,2,4-triazole-3,5-diamine (Compound 3)
A solution of N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine Intermediate 2 (60 mg, 246 μmol) and 5-methylfuran-2-carbaldehyde (111.2 mg, 1.0 μmol) in MeOH (3 ml) was stirred at 45° C. for two days to give a suspension, cooled to −20° C. and was filtered to collect the solid. The solid was re-suspended in MeOH (5 ml), NaBH4 (55.8 mg, 1.47 mmol) was added and the reaction was stirred for 1 hour. The solvent was removed, and the reaction mixture was redissolved in EtOAc (5 ml) and washed with water (2×4 ml), dried over MgSO4 and concentrated in vacuo. Trituration with DCM afforded an off white solid as desired product (61.3 mg, 74% yield). MS +m/z: 338 (M+H)+

reactant | N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)N | C8H7Cl2N5
reactant | 5-methylfuran-2-carbaldehyde | 1.0 μmol, 111.2 mg | CC1=CC=C(O1)C=O | C6H6O2
reactant | NaBH4 | 1.47 mmol, 55.8 mg | [BH4-].[Na+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | 3 ml | CO | CH4O
product | N3-(3,5-dichlorophenyl)-N5-((5-methylfuran-2-yl)methyl)-1H-1,2,4-triazole-3,5-diamine | 61.3 mg, 74% yield | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)NCC=1OC(=CC1)C | C14H13Cl2N5O
